US08426414B2
Part A: (4-Hydroxymethyl-tetrahydro-pyran-4-yl)-carbamic acid tert-butyl ester
Neat 4-methylmorpholine (2.7 mL, 24.6 mmol) was added, via syringe, to a rapidly stirred, 0° C., solution of 4-tert-butoxycarbonylamino-tetrahydro-pyran-4-carboxylic acid (5.0 g, 20.4 mmol) and isobutyl chloroformate (3.2 mL, 24.5 mmol) in anhydrous tetrahydrofuran (200 mL) contained in a 1000 mL round bottomed flask. Precipitate immediately formed. The suspension was allowed to stir at 0° C. under N2 blanket for 20 minutes then a hand swirled, gas evolving, suspension of sodium borohydride (2.3 g, 61.3 mmol) in methanol (65 mL) was added, at as fast of a rate as possible while maintaining control of the concomitant reaction foaming. When observable gas evolution had ceased the opaque white reaction suspension was transferred to a separatory funnel containing saturated aqueous sodium chloride (500 mL) and extracted with ethyl acetate. Combined organic extracts were dried (MgSO4), passed through a plug of silica gel, and evaporated to obtain 4.89 g of off white solid which was used without further purification. LRMS (ESI) m/z 232.2 [(M+H)+, calcd for C11H22NO4232.3].

reactant | 4-methylmorpholine | 24.6 mmol, 2.7 mL | CN1CCOCC1 | C5H11NO
reactant | 4-tert-butoxycarbonylamino-tetrahydro-pyran-4-carboxylic acid | 20.4 mmol, 5.0 g | C(C)(C)(C)OC(=O)NC1(CCOCC1)C(=O)O | C11H19NO5
reactant | isobutyl chloroformate | 24.5 mmol, 3.2 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 61.3 mmol, 2.3 g | [BH4-].[Na+]
reactant | sodium chloride | 500 mL | [Cl-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methanol | 65 mL | CO | CH4O
product | (4-Hydroxymethyl-tetrahydro-pyran-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCOCC1)CO)=O | C11H21NO4
